US05015775
Anisole (2.16.3 g, 2.0 moles) was mixed in a flask with anhydrous methane sulfonic acid (64.8 g, 1.0 mole) and phosphorus oxychloride (54.1 g, 0.56 mole) and was heated while stirring at 120-125° C. for 5 hours. A nitrogen purge was used to sweep out HCl gas as it formed. Subsequent treatment of the reaction mixture after cooling was the same as in Example 1. The washed and dried product solution was then heated in a distillation unit with a fractionating column to remove unreacted anisole. Products remaining in the distillation unit were finally diluted with N-butanol and crystallized from this solvent. A yield of 35% of methyl p-methoxyphenyl sulfone was obtained.

reactant | Anisole | 2.0 moles | C1(=CC=CC=C1)OC | C7H8O
reactant | methane sulfonic acid | 1.0 mole, 64.8 g | CS(=O)(=O)O | CH4O3S
reactant | phosphorus oxychloride | 0.56 mole, 54.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl p-methoxyphenyl sulfone | yield of 35% | COC1=CC=C(C=C1)S(=O)(=O)C | C8H10O3S
